US09079834B2
Step 1: preparation of diethyl N-(tert-butoxycarbonyl)-L-glutamate
To a suspension of L-glutamic acid diethyl ester hydrochloride (15 g, 62.6 mmol) in acetonitrile (120 mL) were added triethylamine (17.44 mL, 125 mmol), di-tert-butyl dicarbonate (34.1 g, 156 mmol) and DMAP (0.765 g, 6.26 mmol). The reaction mixture was stirred at room temperature overnight, poured into water, and extracted with dichloromethane (2×). The combined organics were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford 18 g of the title compound that was used without further purification.

reactant | L-glutamic acid diethyl ester hydrochloride | 62.6 mmol, 15 g | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
reactant | triethylamine | 125 mmol, 17.44 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 156 mmol, 34.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
catalyst | DMAP | 6.26 mmol, 0.765 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | diethyl N-(tert-butoxycarbonyl)-L-glutamate | 18 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC | C14H25NO6
